US07557244B2
g) 2-[5-(3-Isopropyl-phenoxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester
A mixture of 2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester (50 mg, 0.14 mmol), 3-isopropylphenyl boronic acid (45 mg, 0.27 mmol), copper acetate (26 mg, 0.14 mmol), triethylamine (57 μL, 0.4 mmol) and powdered 4 Å molecular sieves in DCM (1 mL) were stirred at room temperature for 2 days. The reaction mixture was concentrated in vacuo. Purification by flash chromatography (EtOAc:petroleum ether) give the title compound (32 mg, 48%).

reactant | 2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester | 0.14 mmol, 50 mg | COC(C(CC(C)C)C=1C=C(C=C(C1)O)C1=CC=C(C=C1)C(F)(F)F)=O | C20H21F3O3
reactant | 3-isopropylphenyl boronic acid | 0.27 mmol, 45 mg | C(C)(C)C=1C=C(C=CC1)B(O)O | C9H13BO2
reactant | triethylamine | 0.4 mmol, 57 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | copper acetate | 0.14 mmol, 26 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-[5-(3-Isopropyl-phenoxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester | 32 mg, 48% | COC(C(CC(C)C)C=1C=C(C=C(C1)OC1=CC(=CC=C1)C(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C29H31F3O3
